US06689290B2
c) 2-Hydroxy-3,6,7,10,11-pentahexyloxytriphenylene
Anhydrous iron chloride (4.7 g, 28.9 mmol) was added to a stirred mixture of 2-acetoxy-1-hexyloxybenzene (3.4 g, 14.4 mmol) and 3,3′,4,4′-tetrahexyloxybiphenyl (4.0 g, 7.2 mmol) in dichloromethane. The mixture was stirred for 5 h and poured onto methanol (300 ml). The resultant precipitate was filtered off and saponified with potassium carbonate in ethanol (5% water) under reflux for over night. After cooling, water (50 ml) was added and the product was extracted with dichloromethane, dried (MgSO4), concentrated and purified by column chromatography on silica gel using dichloromethane and petroleum spirit (1:1) as eluent and then recrystallised from ethanol to yield a white solid (3.59 g, 67%). Found: C, 77.30; H, 9.85. C48H72O6 requires C, 77.38; H, 9.74. δH (CHCl3) 7.96 (s, 1H, ArH), 7.83-7.82 (m, 4H, ArH), 7.77 (s, 1H, ArH), 5.92 (1H, s, OH), 4.31-4.18 (m, 10H, OCH2), 1.99-1.92 (m, 10H, CH2), 1.58-1.55 (m, 10H, CH2), 1.46-1.38 (m, 20H, CH2), 0.97-0.83 (15H, m, CH3).

reactant | 2-acetoxy-1-hexyloxybenzene | 14.4 mmol, 3.4 g | C(C)(=O)OC1=C(C=CC=C1)OCCCCCC | C14H20O3
reactant | 3,3′,4,4′-tetrahexyloxybiphenyl | 7.2 mmol, 4.0 g | C(CCCCC)OC=1C=C(C=CC1OCCCCCC)C1=CC(=C(C=C1)OCCCCCC)OCCCCCC | C36H58O4
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | iron chloride | 28.9 mmol, 4.7 g | [Fe](Cl)Cl
product | 2-Hydroxy-3,6,7,10,11-pentahexyloxytriphenylene | 3.59 g, 67% | OC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCC | C48H72O6
